US08431596B2
N-[5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-isobutyramide (WW-012)
To a solution of the 5-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.07 g, 0.291 mmol) in dry acetonitrile (2 mL) was added triethylamine (0.12 mL, 0.874 mmol) followed by isopropanecarbonyl chloride (0.046 mL, 0.437 mmol). The reaction mixture was then allowed to warm to ambient temperature overnight. Further triethylamine (1.5 eq) and acid chloride (1.2 eq) were added to ensure complete reaction. The solvent was then removed and 3 mL of methanol-ammonia 7M was added to the crude and the mixture was stirred 6 h. The solution was concentrated under reduced pressure and the crude was purified by preparatory HPLC. LCMS method: 2, RT: 4.33 min, MI: 311 [M+1]. NMR 1H (DMSO): 1.05 (d, 6H), 2.65-2.75 (m, 1H), 3.86 (s, 3H), 7.06 (d, 2H), 7.19 (d, 1H), 7.57-7.69 (m, 2H), 7.95 (d, 2H), 10.68 (brs, 1H).

reactant | 5-(4-methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.291 mmol, 0.07 g | COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N | C13H12N4O
reactant | triethylamine | 0.874 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | isopropanecarbonyl chloride | 0.437 mmol, 0.046 mL | C(C)(C)C(=O)Cl | C4H7ClO
reactant | triethylamine | 1.5 eq | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | N-[5-(4-Methoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-isobutyramide | COC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC(C(C)C)=O | C17H18N4O2
